US07652051B2
Synthesis of 4-{3-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyridine-2-carboxylic acid methylamide trifluoroacetic acid salt
3-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol (100 mg, 0.282 mmol) was dissolved in 2 mL of anhydrous DMF in a 5 mL microwave vial (Personal Chemistry). Solid potassium bis(trimethylsilyl)amide (140.6 mg, 0.705 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 15 min, then 4-chloro-2-pyridine-carboxamide (52.9 mg, 0.31 mmol) was added, followed by anhydrous K2CO3 (19.5 mg, 0.141 mmol). Then the vial was capped and microwaved at 250° C. for 20 min. Then the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. The product was isolated as a TFA salt (25.0 mg of white solid).

reactant | 3-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol | 0.282 mmol, 100 mg | ClC1=C(C=C(C=C1)NC=1NC(=NN1)C=1C=C(C=CC1)O)C(F)(F)F | C15H10ClF3N4O
reactant | potassium bis(trimethylsilyl)amide | 0.705 mmol, 140.6 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloro-2-pyridine-carboxamide | 0.31 mmol, 52.9 mg | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
reactant | K2CO3 | 0.141 mmol, 19.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | 4-{3-[5-(4-chloro-3-trifluoromethyl-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyridine-2-carboxylic acid methylamide trifluoroacetic acid salt | 25.0 mg | FC(C(=O)O)(F)F.CNC(=O)C1=NC=CC(=C1)OC1=CC(=CC=C1)C1=NN=C(N1)NC1=CC(=C(C=C1)Cl)C(F)(F)F | InChI=1S/C22H16ClF3N6O2.C2HF3O2/c1-27-20(33)18-11-15(7-8-28-18)34-14-4-2-3-12(9-14)19-30-21(32-31-19)29-13-5-6-17(23)16(10-13)22(24,25)26;3-2(4,5)1(6)7/h2-11H,1H3,(H,27,33)(H2,29,30,31,32);(H,6,7)
